US07683067B2
1-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-4-methylpiperazine
A mixture of 2-chloro-5-(chloromethyl)pyridine 1-oxide (0.5 g, 2.8 mmol; described in: Tilley, J. W. et al, J. Heterocyclic Chem. 1979, 16, 333), 1-methylpiperazine (0.34 g, 3.37 mmol), and potassium carbonate (0.78 g, 5.62 mmol) in acetonitrile (5 mL) was stirred at room temperature for 13 h. The solvent was removed in vacuo and the residue was purified on a silica gel column using a gradient dichloromethane/methanol, (100:1 to 2:1), as the eluent affording 0.57 g (84% yield) of the title compound as a colorless solid: 1H NMR (CDCl3, 400 MHz) δ 8.34 (s, 1H), 7.38 (d, J=8 Hz, 1H), 7.12 (d, J=8 Hz, 1H), 3.42 (s, 2H), 2.52 (s, 8H), 2.34 (m, 3H); 13C NMR (CDCl3, 100 MHz) δ 140.6, 140.6, 136.3, 126.7, 58.9, 55.0, 52.6, 45.8; MS (ESP) m/z 242 (M++1).

reactant | 2-chloro-5-(chloromethyl)pyridine 1-oxide | 2.8 mmol, 0.5 g | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
reactant | 1-methylpiperazine | 3.37 mmol, 0.34 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 5.62 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-4-methylpiperazine | 0.57 g, 84% yield | ClC1=CC=C(C=[N+]1[O-])CN1CCN(CC1)C | C11H16ClN3O
